US08211908B2
To a solution of 0.36 g of ethyl (2E)-3-(3-amino-5-fluoropyridin-2-yl)acrylate in 3 mL of methanol, 0.37 g of a 28% sodium methoxide/methanol solution was added at room temperature, and the mixture was heated under reflux while stirring for 2 hours 40 minutes. Thereto was added 72 mg of a 28% sodium methoxide/methanol solution, and the mixture was heated under reflux while stirring for 1 hour. The reaction mixture was cooled to room temperature, the solvent was then distilled off under reduced pressure, and the resultant residue was charged with ethyl acetate and water and adjusted to pH 6.7 with 1 mol/L hydrochloric acid. The solvent was distilled off under reduced pressure, the solid was filtered off and washed with water and diethyl ether to obtain 0.17 g of 7-fluoro-1,5-naphthyridin-2(1H)-one as a light brown solid.

reactant | ethyl (2E)-3-(3-amino-5-fluoropyridin-2-yl)acrylate | 0.36 g | NC=1C(=NC=C(C1)F)/C=C/C(=O)OCC | C10H11FN2O2
reactant | sodium methoxide methanol | C[O-].[Na+].CO
solvent | methanol | 3 mL | CO | CH4O
product | 7-fluoro-1,5-naphthyridin-2(1H)-one | 0.17 g | FC1=CN=C2C=CC(NC2=C1)=O | C8H5FN2O
